US04882338
To a solution of 3.96 g of vaniline (e-1) (26.0 mmol) in 26 ml of dry DMF was added 1.04 g of 60% NaH (26.0 mmol) slowly, and the mixture was stirred for 30 min. in a stream of nitrogen. 2,2,2-Trifluoroethyl trifluoromethanesulfonate (6.64 g: 28.6 mmol) was added dropwise to the mixture and stirred overnight at room temperature. The reaction solution was poured into water and extracted with ether. The ether layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, eluting with benzene-AcOEt to give 5.98 g of the objective compound 3-methoxy-4-(2,2,2-trifluoroethoxy)benzaldehyde (f-1) (Yield: 98.2%).

reactant | vaniline | 26.0 mmol, 3.96 g | COC1=C(C=CC(=C1)C=O)O | C8H8O3
reactant | NaH | 26.0 mmol, 1.04 g | [H-].[Na+]
reactant | 2,2,2-Trifluoroethyl trifluoromethanesulfonate | 28.6 mmol, 6.64 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | water | O | H2O
solvent | DMF | 26 ml | CN(C)C=O | C3H7NO
product | 3-methoxy-4-(2,2,2-trifluoroethoxy)benzaldehyde | Yield: 98.2% | COC=1C=C(C=O)C=CC1OCC(F)(F)F | C10H9F3O3
